* C:\users\oem\Desktop\eletronica\ltspice\cursoLtspice\aula04-1.asc
B1 0 N001 I=0.1*(V(a)-V(b))
V1 A 0 5
R1 B A 10k
R2 B 0 1k
R3 B 0 1k
R4 N001 0 200
.tran 1
.backanno
.end
